US08232294B2
Step 7) (R)-1-(4-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-aminoacetate hydro-chloride
To a solution of (R)-1-(4-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl-2-(tert-butoxycarbonyl amino)acetate (100 mg, 0.137 mmol) in EtOAc (15 mL) was added 3 mL of saturated HCl in EtOAc (3 mL). The reaction mixture was stirred at rt overnight. The solid formed was collected and was crystallized in MeOH/EtOAc (20 mL, v/v=1:5). The product was further washed with EtOAc (5 mL×3) and dried under vacuum overnight to afford the title compound as a white solid (88 mg, 83%).

reactant | (R)-1-(4-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl-2-(tert-butoxycarbonyl amino)acetate | 0.137 mmol, 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C[C@@H](C)OC(CNC(=O)OC(C)(C)C)=O)C1=CC=CC=C1)=O)F | C38H40FN5O9
reactant | HCl | 3 mL | Cl | ClH
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | (R)-1-(4-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-aminoacetate hydro-chloride | 88 mg, 83% | Cl.NCC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)F)=O)=O)C1=CC=CC=C1)C | InChI=1S/C33H32FN5O7.ClH/c1-19(45-30(40)17-35)18-38-20(2)31(33(42)39(38)22-8-6-5-7-9-22)32(41)37-21-10-11-27(24(34)14-21)46-26-12-13-36-25-16-29(44-4)28(43-3)15-23(25)26;/h5-16,19H,17-18,35H2,1-4H3,(H,37,41);1H/t19-;/m1./s1
